US07807697B2
5-Bromo-1-methyl-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-1H-indole
To a cooled (0° C.) suspension of KO-tBu (95%, 6.2 g, 52 mmol) in NMP (120 mL) was added a solution of 4-bromo-2-[4-(2-(R)-methyl-pyrrolidin-1-yl)-but-1-ynyl]-phenylamine (8.0 g, 26 mmol) in NMP (50 mL) dropwise keeping the temperature below 5° C. The resulting mixture was then stirred at room temperature for 3 hours under nitrogen. HPLC indicated that all the starting material was consumed. Mel (1.95 mL, 31.3 mmol) was then added. The resulting mixture was stirred at room temperature for 2 hours. HPLC indicated that all the indole intermediate was methylated. H2O (300 mL) was added slowly to the reaction mixture followed by addition of IPAc (400 mL). The resulting mixture was stirred for 5 minutes and the organic layer was separated. The organic layer was washed with 20% brine (3×150 mL), dried over Na2SO4 and treated with activated carbon. After filtration, the filtrate was concentrated under vacuum to give the title compound as a thick oil (7.5 g), which was used in the next coupling reaction without further purification. 1H NMR (400 MHz, CDCl3) δ 7.78 (d, J=1.8 Hz, 1H), 7.36 (dd, J=1.8, 8.7 Hz, 1H), 7.26 (d, J=8.6 Hz, 1H), 6.37 (s, 1H), 3.81 (s, 1H), 3.40-3.45 (m, 1H), 3.26-3.34 (m, 1H), 3.04-3.16 (m, 2H), 2.51-2.61 (m, 2H), 2.39 (q, J=8.78 Hz, 1H), 2.09-2.14 (m, 1H), 1.87-1.99 (m, 2H), 1.61-1.68 (m, 1H), 1.30 (d, J=6.2 Hz, 3H). 13C NMR (400 MHz, CDCl3) δ 140.30, 135.60, 129.18, 123.08, 121.92, 112.29, 109.95, 98035, 60.16, 54.22, 53.19, 32091, 29.86, 26.85, 22.00, 19.34. [M+H]+ at m/z 322.

reactant | KO-tBu | 52 mmol, 6.2 g | O([K])C(C)(C)C
reactant | 4-bromo-2-[4-(2-(R)-methyl-pyrrolidin-1-yl)-but-1-ynyl]-phenylamine | 26 mmol, 8.0 g | BrC1=CC(=C(C=C1)N)C#CCCN1[C@@H](CCC1)C | C15H19BrN2
solvent | NMP | 120 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
product | 5-Bromo-1-methyl-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-1H-indole | 7.5 g | BrC=1C=C2C=C(N(C2=CC1)C)CCN1[C@@H](CCC1)C | C16H21BrN2
